US06093732
N-[(4-Chlorophenyl)methyl]-6,7-difluoro-4-hydroxy-3-quinolinecarboxamide
A mixture of 0.5 g of 6,7-difluoro-4-hydroxy-3-quinolinecarboxylic acid from preparation No. 15 and 0.435 g of carbonyldiimidazole in 8 mL of anhydrous dimethylacetamide is stirred 4 h at 65° C. The reaction mixture is cooled to 25° C. and 2 drops of distilled water is added. After an additional 10 min 0.34 mL of 4-chlorobenzylamine is added. The mixture is stirred 26 h at 25° C. and then diluted with 10 mL of distilled water. After standing for an additional 30 min the precipitate is collected by filtration and washed with three 10 mL portions of distilled water. The solid is dried in a stream of air and then at 20 torr/120° C./3 days. The yield is 0.51 g (70%) of a white solid.

reactant | 6,7-difluoro-4-hydroxy-3-quinolinecarboxylic acid | 0.5 g | FC=1C=C2C(=C(C=NC2=CC1F)C(=O)O)O | C10H5F2NO3
reactant | carbonyldiimidazole | 0.435 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-chlorobenzylamine | 0.34 mL | ClC1=CC=C(CN)C=C1 | C7H8ClN
solvent | dimethylacetamide | 8 mL | CC(=O)N(C)C | C4H9NO
catalyst | water | 2 drops | O | H2O
solvent | water | 10 mL | O | H2O
product | N-[(4-Chlorophenyl)methyl]-6,7-difluoro-4-hydroxy-3-quinolinecarboxamide | ClC1=CC=C(C=C1)CNC(=O)C=1C=NC2=CC(=C(C=C2C1O)F)F | C17H11ClF2N2O2
